US08471005B2
(2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-phenyl-amine (0.280 g, 1.04 mmol) was dissolved in Methylene chloride (5 mL, 80 mmol) and the solution was treated with m-Chloroperbenzoic acid (0.313 g, 1.40 mmol) at room temperature. The reaction was allowed to stir until HPLC showed consumption of starting materials. The reaction mixture was poured over saturated sodium bicarbonate and organics were extracted with dichloromethane. Combined extracts were then dried over sodium sulfate, filtered and reduced. The crude reaction mixture was purified by Isco flash column chromatography (hexanes/ethyl acetate eluent) and combined fractions were reduced and dried under vacuum to afford 83 mg of (2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-phenyl-amine. (M+H)=287.0. 1H NMR (400 MHz, DMSO, d6) δ 9.24 (s, 1H), 7.25 (m, 1H), 7.10 (m, 3H), 6.64 (d, 2H, J=8.08 Hz), 6.55 (t, 1H, J=7.12 Hz), 6.22 (m, 1H), 4.68 (m, 2H), 2.92 (s, 3H).

reactant | (2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-phenyl-amine | 1.04 mmol, 0.280 g | CSC1=NN2C(C=N1)=CC=C2CNC2=CC=CC=C2 | C14H14N4S
reactant | Methylene chloride | 80 mmol, 5 mL | C(Cl)Cl | CH2Cl2
reactant | m-Chloroperbenzoic acid | 1.40 mmol, 0.313 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | (2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-phenyl-amine | 83 mg | CS(=O)C1=NN2C(C=N1)=CC=C2CNC2=CC=CC=C2 | C14H14N4OS
